US05342903
A 750 ml sulfonation flask equipped with thermometer, reflux condenser, N2 inlet and metering device, is charged with 90.12 g (1.0 mol) of 1,4-butanediol and 1.66 g of catalyst A and the reaction mixture is heated to 100° C. With efficient stirring, 160.7 ml (2.05 mol) of epichlorohydrin are added over 1 h and the mixture is allowed to react for 1 h. Afterwards the reaction mixture is cooled to 50° C., 200 ml of toluene are added and to the solution are added 16 g (0.2 mol) of a 50% aqueous solution of NaOH over 5 minutes (min). Then 76 g (1.9 mol) of pulverised NaOH are added by increments over 5 min and the suspension is stirred for 30 min. The reaction mixture is filtered, washed with 100 ml of toluene and the phases are separated. The organic phase is dried over MgSO4, filtered and the filtrate is freed from solvent on a rotary evaporator (bath temperature 70° C.), giving 204.8 g (101% of theory) of colourless diglycidyl ether of 1,4-butanediol having the following properties: epoxy value: 8.59 eq/kg (87% of theory); total chlorine content: 3.8%; concentration of hydrolisable chlorine: 29 ppm (parts per million).

reactant | 1,4-butanediol | 1.0 mol, 90.12 g | C(CCCO)O | C4H10O2
reactant | epichlorohydrin | 2.05 mol, 160.7 ml | C(Cl)C1CO1 | C3H5ClO
reactant | NaOH | [OH-].[Na+]
reactant | NaOH | 1.9 mol, 76 g | [OH-].[Na+]
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | diglycidyl ether | 204.8 g, 101% | C(C1CO1)OCC1CO1 | C6H10O3
